US04902337
An ammonia gas was introduced while strongly stirring on cooling in an ice bath into a benzene solution (120 ml) of 2,4-dichloro-5-methoxycarbonyloxyphenyl isocyanate (5.04 g, 19.2 mmol) which has been synthesized by the identical method as the Comparative Examples 1 to 4 from 2,4-dichloro-5-methoxycarbonyloxynitrobenzene. Thirty minutes later, a white solid deposited was filtered and sufficiently washed with benzene. This product was confirmed to be the desired 2,4-dichloro-5-methoxycarbonyloxyphenyl urea (4.68 g, yield 88%) by means of spectral analyses.

reactant | ammonia | N | H3N
reactant | 2,4-dichloro-5-methoxycarbonyloxyphenyl isocyanate | 19.2 mmol, 5.04 g | ClC1=C(C=C(C(=C1)Cl)OC(=O)OC)N=C=O | C9H5Cl2NO4
reactant | 2,4-dichloro-5-methoxycarbonyloxynitrobenzene | ClC1=C(C=C(C(=C1)Cl)OC(=O)OC)[N+](=O)[O-] | C8H5Cl2NO5
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 2,4-dichloro-5-methoxycarbonyloxyphenyl urea | 4.68 g, yield 88% | ClC1=C(C=C(C(=C1)Cl)OC(=O)OC)NC(=O)N | C9H8Cl2N2O4
